US04824846
A mixture of 6.82 g (20 mmol) of 1-(4-hydroxyphenyl)piperazine dihydrobromide, 3.36 g (18.5 mmol) of 2-chloro-5-trifluoromethylpyridine, 2.91 g (21 mmol) of powdered K2CO3 and 76 ml of absolute DMF was warmed to 80° C., and 460 mg of powdered K2CO3 were added with stirring at 80° C. in each case after 10 minutes, after a further 25 minutes and after a further 60 minutes (a total of 1.38 g (10 mmol) of K2CO3), and the mixture was stirred for a further 9 hours at 80° C. After removing the DMF by distillation in vacuo, the residue was taken up in CH2Cl2 /water, the phases were separated after thorough mixing, and the aqueous solution was extracted three times with CH2Cl2. The combined CH2Cl2 extracts were dried, filtered and evaporated in vacuo. The residue (6 g) was dissolved in boiling methanol. The turbid solution formed was filtered through kieselguhr under suction, concentrated to half the volume, and cooled in an ice bath. The crystals which precipitated out were filtered off under suction and dried. The filtrate, after further concentration and cooling, precipitated further crystalline substance, which was filtered off under suction and recrystallized from a little methanol. In this fashion, 3.43 g (=57.4% yield) of 1-(4-hydroxyphenyl)-4-(5-trifluoromethylpyrid-2-yl)piperazine, melting point 178°-79° C., were obtained.

reactant | 1-(4-hydroxyphenyl)piperazine dihydrobromide | 20 mmol, 6.82 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | 2-chloro-5-trifluoromethylpyridine | 18.5 mmol, 3.36 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | K2CO3 | 21 mmol, 2.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 460 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 76 ml | CN(C)C=O | C3H7NO
product | 1-(4-hydroxyphenyl)-4-(5-trifluoromethylpyrid-2-yl)piperazine | 3.43 g, 57.4% yield | OC1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C16H16F3N3O
